US04203988
A. 2-(2-Dimethylaminoethylamino)-4-trifluoromethylpyridine
A solution of 2-(2-dimethylaminoethylamino)-4-trifluoromethyl-6-chloropyridine (5.8 g., 0.022 mole) (from Example 53 Part A) in 2.5% potassium hydroxide in methanol (75 ml.) containing 5% palladium-on-calcium carbonate (0.5 g.) in hydrogenated in a Parr apparatus at 50 psi of hydrogen until 0.022 mole of hydrogen is taken up (24 hours). The catalyst is filtered and the solvent removed under vacuum. The residue is dissolved in water and the product is extracted into methylene chloride, dried over anhydrous sodium sulfate and evaporated to give the oily product (5.0 g.) which is used without further purification in the succeeding step.

reactant | 2-(2-dimethylaminoethylamino)-4-trifluoromethyl-6-chloropyridine | 0.022 mole, 5.8 g | CN(CCNC1=NC(=CC(=C1)C(F)(F)F)Cl)C | C10H13ClF3N3
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | 0.022 mole | [H][H] | H2
solvent | potassium hydroxide | [OH-].[K+]
solvent | methanol | 75 ml | CO | CH4O
product | 2-(2-Dimethylaminoethylamino)-4-trifluoromethylpyridine | CN(CCNC1=NC=CC(=C1)C(F)(F)F)C | C10H14F3N3
